US07495104B2
1-(3,3-Dimethyl-butyl)-3-{2-fluoro-4-[6-methoxy-7-(2-morpholin-4-yl-ethoxy)-quinolin-4-yloxy]-phenyl}-urea hydrochloride
1-(3,3-Dimethyl-butyl)-3-{2-fluoro-4-[6-methoxy-7-(2-morpholin-4-yl-ethoxy)-quinolin-4-yloxy]-phenyl}-urea (42.7 mg) was dissolved in chloroform (1 ml) and methanol (1 ml) to prepare a solution. To the solution was added 10 drops of 10% hydrogen chloride-methanol with a Pasteur pipette. The mixture was concentrated by an evaporator, and the concentrate was dried by means of a vacuum pump to give a hydride compound (48.9 mg).

reactant | 1-(3,3-Dimethyl-butyl)-3-{2-fluoro-4-[6-methoxy-7-(2-morpholin-4-yl-ethoxy)-quinolin-4-yloxy]-phenyl}-urea | 42.7 mg | CC(CCNC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCN1CCOCC1)F)(C)C | C29H37FN4O5
reactant | methanol | 1 ml | CO | CH4O
reactant | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | hydrogen chloride methanol | 10 drops | Cl.CO
product | 1-(3,3-Dimethyl-butyl)-3-{2-fluoro-4-[6-methoxy-7-(2-morpholin-4-yl-ethoxy)-quinolin-4-yloxy]-phenyl}-urea hydrochloride | 48.9 mg | Cl.CC(CCNC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCN1CCOCC1)F)(C)C | InChI=1S/C29H37FN4O5.ClH/c1-29(2,3)8-10-32-28(35)33-23-6-5-20(17-22(23)30)39-25-7-9-31-24-19-27(26(36-4)18-21(24)25)38-16-13-34-11-14-37-15-12-34;/h5-7,9,17-19H,8,10-16H2,1-4H3,(H2,32,33,35);1H
